US05093512
K. Prakash, et al., J. Am. Chem. Soc., Vol. 111, 393-395 (1989) describe the reaction of the fluoride ion catalyzed reaction of trifluoromethyltrimethylsilane with ketones and aldehydes to give the corresponding α-trifluoromethyl substituted alcohol and trimethylfluorosilane. In a typical reaction, cyclohexanone was reacted with trifluoromethyltrimethylsilane in tetrahydrofuran in the presence of tetrabutylammonium fluoride at 0° C. After 1 hour, the solution was mixed with 0.5 N HCl to hydrolyze the intermediate silyl ether, and then the product was isolated by distillation. In this case, a 77% yield of 1-trifluoromethylcyclohexanol is reported.

reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | trifluoromethyltrimethylsilane | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | HCl | 0.5 N | Cl | ClH
reactant | silyl ether | [SiH3]O[SiH3] | H6OSi2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-trifluoromethylcyclohexanol | 77% yield | FC(C1(CCCCC1)O)(F)F | C7H11F3O
